US09079838B2
Preparation of [1,1′-biphenyl]-2-yl benzoate
A 250 mL round bottom flask equipped with efficient magnetic stirring was charged with o-phenylphenol (17.0 g, 0.1 mol), toluene (100 mL) and triethylamine (11.1 g, 0.11 mol, 10% excess). Benzoyl chloride (14.7 g, 0.105 mol, 5% excess) was added portionwise over 15 minutes while using an ice bath to help maintain the temperature below 30° C. The initially clear reaction mixture became a white slurry during the acid chloride addition. After stirring at room temperature for an additional 2.5 hours, the slurry was filtered and the clear organic layer was stripped on a rotary evaporator at 60° C./P=3.4 kPa. The light yellow oil crystallized upon cooling. The crude product was recrystallized from a mixture of hexane (100 mL)/toluene (20 mL) yielding 25.7 g (93.8%) white crystals. The structure was confined using 13C and 1H NMR, IR and GC/MS.

reactant | o-phenylphenol | 0.1 mol, 17.0 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | triethylamine | 0.11 mol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | Benzoyl chloride | 0.105 mol, 14.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | [1,1′-biphenyl]-2-yl benzoate | 25.7 g, 93.8% | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)C1=CC=CC=C1 | C19H14O2
